US06919355B2
f) N-(5-Amino-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-(4-benzylpiperidin-1-yl)-2-oxo-acetamide
A mixture of 3.3 g (7.7 mmol) of 2-(4-benzylpiperidin-1-yl)-N-(5-nitro-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-oxo-acetamide, 100 ml of methanol and 0.3 g of 10% Pd/C catalyst is hydrogenated for 8 h. The catalyst is filtered off and the filtrate is concentrated. The residue is purified by column chromatography using Kieselgel 60 as adsorbent (Merck) and toluene:acetone=2:1 as eluent to yield 1.06 g (34.5%) of the title compound. Mp.: 296° C. (toluene—acetone).

reactant | 2-(4-benzylpiperidin-1-yl)-N-(5-nitro-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-oxo-acetamide | 7.7 mmol, 3.3 g | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-])=O | C21H20N4O6
catalyst | Pd/C | 0.3 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | N-(5-Amino-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-(4-benzylpiperidin-1-yl)-2-oxo-acetamide | 1.06 g, 34.5% | NC=1C(=CC2=C(NC(O2)=O)C1)NC(C(=O)N1CCC(CC1)CC1=CC=CC=C1)=O | C21H22N4O4
